US06548538B2
1,1-Dimethylethyl 2-[[4-[[(2-furanylmethyl)amino]methyl]phenyl]thio]-2-methyl-propanoate
550 mg of 1,1-dimethylethyl 2-[(4-formylphenyl)thio]-2-methyl-propanoate and 381 mg of furfurylamine are initially charged in 100 ml of methanol and treated with 1 ml of glacial acetic acid. The mixture is stirred at room temperature for 15 min, briefly brought to the boil and then, at 0° C., admixed a little at a time with 493 mg of sodium cyanoborohydride. The mixture is stirred overnight at room temperature and then treated with 1 N HCl and stirred for 30 min. The mixture is then made basic using Na2CO3 solution and extracted 2× with ethyl acetate. The organic phase is washed (sat. NaCl solution) and dried (MgSO4). Concentration and chromatographic purification (dichloromethane/ethyl acetate 10+1) gives 430 mg of a colourless oil.

reactant | 1,1-dimethylethyl 2-[(4-formylphenyl)thio]-2-methyl-propanoate | 550 mg | C(=O)C1=CC=C(C=C1)SC(C(=O)OC(C)(C)C)(C)C | C15H20O3S
reactant | furfurylamine | 381 mg | C(C1=CC=CO1)N | C5H7NO
reactant | sodium cyanoborohydride | 493 mg | C(#N)[BH3-].[Na+]
reactant | HCl | 1 N | Cl | ClH
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 1,1-Dimethylethyl 2-[[4-[[(2-furanylmethyl)amino]methyl]phenyl]thio]-2-methyl-propanoate | 430 mg | O1C(=CC=C1)CNCC1=CC=C(C=C1)SC(C(=O)OC(C)(C)C)(C)C | C20H27NO3S
